US07183445B2
4-benzyloxy iodobenzene (193 g, 0.625 mol), ethynyl-trimethyl-silane (75 g, 0.76 mol), Cul (2 g, 10.5 mmol) and Pd(PPh3)2Cl2 (1 g, 1.0 mmol) were added to diethylamine (880 mL) at 0° C. The reaction mixture was warmed to 25° C. and then stirred for 6 h. The reaction mixture was concentrated and partitioned in H2O/ethyl acetate (100 mL/100 mL). The reaction mixture was further extracted with ethyl acetate (300 mL×2). The combined organic layers were washed by water (300 mL), dried over MgSO4 and concentrated in vacuo. The crude product was dissolved in methanol (400 mL) and was stirred with KOH (28 g, 0.5 mol) for 1 h at 25° C. Concentration and purification by silica gel column chromatograph (5% ethyl acetate/Hexane) yielded 4-benzyloxy phenyl acetylene as liquid.

reactant | 4-benzyloxy iodobenzene | 0.625 mol, 193 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)I | C13H11IO
reactant | ethynyl-trimethyl-silane | 0.76 mol, 75 g | C(#C)[Si](C)(C)C | C5H10Si
reactant | KOH | 0.5 mol, 28 g | [OH-].[K+]
catalyst | Pd(PPh3)2Cl2 | 1.0 mmol, 1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | diethylamine | 880 mL | C(C)NCC | C4H11N
product | 4-benzyloxy phenyl acetylene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C#C | C15H12O
